US04613609
(±)-1-[2-Hydroxy-2-[4-[(methanesulfony)amino]phenyl]ethyl]-3-methylimidazolium iodide
Heat a solution of 4.0 g (14.2 mmole) of (±)-N-[4-[1-hydroxy-2-(1H-imidazol-1-yl)ethyl]phenyl]methanesulfonamide, 2 ml (32.1 mmole) of iodomethane and 50 ml methanol in a glass pressure tube to 80° C. for 24 hours. Remove the solvent in vacuo. Crystallize the residue from acetone. Recrystallize from acetone to provide the title compound.

reactant | (±)-N-[4-[1-hydroxy-2-(1H-imidazol-1-yl)ethyl]phenyl]methanesulfonamide | 14.2 mmole, 4.0 g | OC(CN1C=NC=C1)C1=CC=C(C=C1)NS(=O)(=O)C | C12H15N3O3S
reactant | iodomethane | 32.1 mmole, 2 ml | IC | CH3I
solvent | methanol | 50 ml | CO | CH4O
product | (±)-1-[2-Hydroxy-2-[4-[(methanesulfony)amino]phenyl]ethyl]-3-methylimidazolium iodide | [I-].OC(C[N+]1=CN(C=C1)C)C1=CC=C(C=C1)NS(=O)(=O)C | InChI=1S/C13H18N3O3S.HI/c1-15-7-8-16(10-15)9-13(17)11-3-5-12(6-4-11)14-20(2,18)19;/h3-8,10,13-14,17H,9H2,1-2H3;1H/q+1;/p-1
